US07344702B2
Synthesis of 4-(4-Methylphenyl) butanol
To lithium aluminum hydride (427 mg, 11.2 mmol) suspended in dry ether (5 ml) at 0° C. is added 1 g of 4-(4-methylphenyl) butanoic acid (5.614 mmol) dissolved in dry ether (10 ml) over a period of 30 minutes. The reaction mixture is then warmed to room temperature and stirred for 4 hours. Water (0.43 ml), NaOH (15% solution, 0.43 g) and water (1.29 ml) are then added successively and the resulting solution is stirred for 30 minutes. The precipitate is filtered and washed with ether and dried. This is then concentrated and purified by flash chromatography (silica gel; ethyl acetate/hexanes) as the eluting medium.

reactant | lithium aluminum hydride | 11.2 mmol, 427 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-methylphenyl) butanoic acid | 5.614 mmol, 1 g | CC1=CC=C(C=C1)CCCC(=O)O | C11H14O2
reactant | Water | 0.43 ml | O | H2O
reactant | NaOH | 0.43 g | [OH-].[Na+]
reactant | water | 1.29 ml | O | H2O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 4-(4-Methylphenyl) butanol | CC1=CC=C(C=C1)CCCCO | C11H16O
